US04923901
Attachment of norleucine to IAM 4
Immobilon affinity membrane 4 (n=2, scheme I), 3.20 g (0.349 mmol of amino groups), was reacted with N--Fmoc--Nle--O--Pfp (6.0 mmol) in the presence of 1-hydroxybenzotriazole (6.0 mmole) in 20 mL of dry DMF for 2.0 hours at room temperature. The support was washed with methanol, dried, and then treated for an additional 2.0 hours at room temperature, with 40 mL pyridine/acetic acid anhydride, 3/1 (v/v). The acylation reaction was terminated by washing the membrane with methanol. The amount of incorporated norleucine was 0.093 mmol/g membrane as determined by quantitation of the fluorenylmethyloxycarbonyl moiety. The assay is performed by carefully weighing in 5.0 mg of the membrane 8 (scheme III) and treatment with 0.4 mL of a mixture of piperidine and 0.4 mL dichloromethane for 30 minutes at room temperature. The solution was diluted to 10.0 mL with dichloromethane and the absorbance at 301 nm determined (ε301 =7,800 for N-fluorenylmethyl piperidine in dichloromethane).

reactant | Immobilon | CCC[C@](C)([C@H]1CC23C=C[C@]1([C@H]4[C@@]25CCN([C@@H]3CC6=C5C(=C(C=C6)O)O4)C)OC)O.C[C@@H](CN1C2=CC=CC=C2SC3=C1C=C(C=C3)OC)CN(C)C
reactant | 1-hydroxybenzotriazole | 6.0 mmole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | norleucine | N[C@@H](CCCC)C(=O)O | C6H13NO2
